US09376418B2
A mixture of N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (2.00 g, 5.27 mmol), 3,5-dibromopyridine (4.37 g, 18.5 mmol) and Pd(dppf)Cl2—CH2Cl2 (0.215 g, 0.264 mmol) in 1,4-dioxane (26.4 mL, 0.2 M), and Na2CO3 (5.27 mL, 2.00 M) was purged with argon and heated to 80° C. for 4 hours. The reaction mixture was filtered through a CELITE plug and washed with dichloromethane. The eluent was diluted with water and extracted with dichloromethane (3×). The combined organic layers were concentrated in vacuo and the residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford N-[3-(5-bromopyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine. MS APCI calc'd for C17H13BrF3N4 [M+H]+ 409 and 411. found 409 and 411.

reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 5.27 mmol, 2.00 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | 3,5-dibromopyridine | 18.5 mmol, 4.37 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | Na2CO3 | 2.00 M, 5.27 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 0.2 M, 26.4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.264 mmol, 0.215 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | N-[3-(5-bromopyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | BrC=1C=C(C=NC1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12BrF3N4
